US07491724B2
Part 2: A mixture of (2S)-benzylamino-succinic acid 1-benzyl ester 4-tert-butyl ester (12.1 g, 32.6 mmol), K2CO3 (14 g, 3 equiv.), NaI (3.0 g, 20 mmol) and 3-chloro-2-chloromethyl-1-propene (5.1 g, 40.8 mmol) in MeCN (150 mL) was stirred at 81° C. for 16 h. After cooling, the reaction mixture was filtered and the filtrate was concentrated under reduced pressure. Purification by Combiflash (hexane and ethyl acetate: gradient 0 to 8% during 12 min) afforded (2S)-[benzyl-(2-chloromethyl-allyl)-amino]-succinic acid 1-benzyl ester 4-tert-butyl ester (8.7 g, 58%). MS (ESI): 458 (M+H+).

reactant | (2S)-benzylamino-succinic acid 1-benzyl ester 4-tert-butyl ester | 32.6 mmol, 12.1 g | C(C)(C)(C)OC(C[C@@H](C(=O)OCC1=CC=CC=C1)NCC1=CC=CC=C1)=O | C22H27NO4
reactant | K2CO3 | 14 g, 3 equiv. | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 20 mmol, 3.0 g | [Na+].[I-]
reactant | 3-chloro-2-chloromethyl-1-propene | 40.8 mmol, 5.1 g | ClCC(=C)CCl | C4H6Cl2
solvent | MeCN | 150 mL | CC#N | C2H3N
product | (2S)-[benzyl-(2-chloromethyl-allyl)-amino]-succinic acid 1-benzyl ester 4-tert-butyl ester | 8.7 g, 58% | C(C)(C)(C)OC(C[C@@H](C(=O)OCC1=CC=CC=C1)N(CC(=C)CCl)CC1=CC=CC=C1)=O | C26H32ClNO4
